US04464373
A solution of 0.70 g of 98% formic acid in 70 ml of dichloromethane was stirred under dry nitrogen with 2.5 g of carbonyldiimidazole for 15 minutes and 1.4 g of ethyl 4,5-dihydroimidazo[1,2-a]quinoxaline-2-carboxylate were added. The mixture was stirred at room temperature for 6 hours under nitrogen and was then poured into ice/aqueous bicarbonate and filtered. The organic layer was dried over magnesium sulfate and evaporated under reduced pressure to a low volume. Dilution with ether gave 1.1 g (70% yield) of ethyl 4-formyl-4,5-dihydroimidazo[1,2-a]quinoxaline-2-carboxylate as colorless crystals after crystallization from dichloromethane/diethyl ether.

reactant | formic acid | 0.70 g | C(=O)O | CH2O2
reactant | carbonyldiimidazole | 2.5 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ethyl 4,5-dihydroimidazo[1,2-a]quinoxaline-2-carboxylate | 1.4 g | C1=C(N=C2N1C1=CC=CC=C1NC2)C(=O)OCC | C13H13N3O2
reactant | ether | CCOCC | C4H10O
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
product | ethyl 4-formyl-4,5-dihydroimidazo[1,2-a]quinoxaline-2-carboxylate | 1.1 g, 70% yield | C(=O)C1C=2N(C3=CC=CC=C3N1)C=C(N2)C(=O)OCC | C14H13N3O3
